US07312343B2
(2S,3S)-2-(Benzyl-methyl-amino)-3-methyl-pentanal
To a stirred solution of 36 ml oxalyl chloride (0.42 mol; Fluka) in 1100 ml dichloromethane were added at −70° C. a solution of 44 ml dimethyl sulfoxide (0.62 mol) in 800 ml dichloromethane over 0.5 h. After stirring at −700 for 15 min a solution of 77.5 g N-benzyl-N-methyl-isoleucinol (0.35 mol) in 700 ml dichloromethane was added at −70° C. over ˜0.5 h and stirring was continued for 15 min. After the addition of 234 ml triethylamine (1.68 mol) at −65° C. stirring was continued for 5 min and the white suspension stirred at −50° C. for 1 h. The dry ice-bath was removed and 3000 ml deionized water was added drop wise and under stirring while the reaction mixture was warmed up to RT. The organic layer was washed twice with 2000 ml 10% brine and the organic layer was dried (Na2SO4). Removal of the solvent by rotary evaporation (40° C./≧10 mbar/0.1 mbar, 2 h) yielded 76.9 g (100.2%) yellow oily product which was used without purification in the next step.

reactant | oxalyl chloride | 0.42 mol, 36 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 0.62 mol, 44 ml | CS(=O)C | C2H6OS
reactant | N-benzyl-N-methyl-isoleucinol | 0.35 mol, 77.5 g | C(C1=CC=CC=C1)N([C@@H]([C@@H](C)CC)CO)C | C14H23NO
reactant | triethylamine | 1.68 mol, 234 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 800 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 700 ml | ClCCl | CH2Cl2
product | (2S,3S)-2-(Benzyl-methyl-amino)-3-methyl-pentanal | 76.9 g, 100.2% | C(C1=CC=CC=C1)N([C@H](C=O)[C@H](CC)C)C | C14H21NO
